US04265890
Following the procedures outlined in Examples 9 and 10, the 3-methyl-8-nitro-6-phenylthio-2,3,4,5-tetrahydro-1H-3-benzazepine is reduced with sodium hydrosulfite and the corresponding 8-amino derivative is diazotized and then heated with cuprous sulfate/sulfuric acid to yield 8-hydroxy-3-methyl-6-phenylthio-2,3,4,5-tetrahydro-1H-3-benzazepine.

reactant | 3-methyl-8-nitro-6-phenylthio-2,3,4,5-tetrahydro-1H-3-benzazepine | CN1CCC2=C(CC1)C=C(C=C2SC2=CC=CC=C2)[N+](=O)[O-] | C17H18N2O2S
reactant | sodium hydrosulfite | S(=O)([O-])S(=O)[O-].[Na+].[Na+]
product | 8-hydroxy-3-methyl-6-phenylthio-2,3,4,5-tetrahydro-1H-3-benzazepine | OC=1C=C(C2=C(CCN(CC2)C)C1)SC1=CC=CC=C1 | C17H19NOS
